US07297816B2
(2S,3R)-3-(3,4-Dichloro-phenyl)-2-[2-(2,6-difluoro-benzenesulfonylamino)-4-iodo-benzoylamino]-butyric acid methyl ester
2-(2,6-Difluoro-benzenesulfonylamino)-4-iodo-benzoic acid was coupled to (2S,3R)-2-amino-3-(3,4-dichloro-phenyl)-butyric acid methyl ester as in EXAMPLE 1, Part C, to afford the title compound. HPLC: RT=12.39 min. MS (ESI+): mass calcd. for C24H19Cl2F2IN2O5S, 683.29; m/z found, 683/685 [M+H]+. 1H NMR (400 MHz, CDCl3): 11.29 (s, 1H), 8.11 (d, J=1.6, 1H), 7.52-7.47 (m, 1H), 7.42 (dd, J=8.3, 1.6, 1H), 7.37 (d, J=13.9, 1H), 7.24 (d, J=2.1, 2H), 7.11 (d, J=8.3, 1H), 7.02-6.98 (m, 3H), 6.65 (d, J=8.3, 1H), 4.95-4.91 (m, 1H), 3.26 (s, 3H), 3.31 (quin, J=7.2, 1H), 1.43 (d, J=7.2, 3H).

reactant | 2-(2,6-Difluoro-benzenesulfonylamino)-4-iodo-benzoic acid | FC1=C(C(=CC=C1)F)S(=O)(=O)NC1=C(C(=O)O)C=CC(=C1)I | C13H8F2INO4S
reactant | (2S,3R)-2-amino-3-(3,4-dichloro-phenyl)-butyric acid methyl ester | COC([C@H]([C@H](C)C1=CC(=C(C=C1)Cl)Cl)N)=O | C11H13Cl2NO2
product | (2S,3R)-3-(3,4-Dichloro-phenyl)-2-[2-(2,6-difluoro-benzenesulfonylamino)-4-iodo-benzoylamino]-butyric acid methyl ester | COC([C@H]([C@H](C)C1=CC(=C(C=C1)Cl)Cl)NC(C1=C(C=C(C=C1)I)NS(=O)(=O)C1=C(C=CC=C1F)F)=O)=O | C24H19Cl2F2IN2O5S
